US04459229
Preparation of α-(N-Ethylanilino)-Toluenesulfonic Acid
To 30.0 g. of 100% sulfuric acid is added N-benzyl-N-ethylaniline (30.0 g) dropwise below about 50° C. To this solution is added, at 50°-60° C., 60% oleum (30.0 g.) with good stirring. The mixture is stirred and heated at about 60° C. for three hours and then drowned into 200 ml of water. The free sulfonic acid which is mostly the meta isomer with a small amount of para, precipitates on standing and is collected by filtration, washed with water, and dried. N-Benzylanilines containing groups such as alkyl, alkoxy, and halogen in the ortho, meta, or para positions of the benzyl group may be sulfonated by this procedure. The exact location of the sulfonic acid group in these cases is often not known and mixtures usually are produced.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-benzyl-N-ethylaniline | 30.0 g | C(C1=CC=CC=C1)N(C1=CC=CC=C1)CC | C15H17N
reactant | oleum | 30.0 g | OS(=O)(=O)O.O=S(=O)=O
solvent | water | 200 ml | O | H2O
product | α-(N-Ethylanilino)-Toluenesulfonic Acid | C(C)N(C1=CC=CC=C1)CC=1C(=CC=CC1)S(=O)(=O)O | C15H17NO3S
